US08754242B2
Furan (214 ml, 3.15 mol) and magnesium iodide (7.0 g, 0.025 mol) are added to 2-(2,4,6-trimethylphenyl)cyclopent-4-ene-1,3-dione (27.0 g, 0.126 mol) and the mixture is stirred at room temperature for 4 days. The reaction mixture is concentrated under reduced pressure and the residue is purified by column chromatography on silica gel to give (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione.

reactant | Furan | 3.15 mol, 214 ml | O1C=CC=C1 | C4H4O
reactant | magnesium iodide | 0.025 mol, 7.0 g | [I-].[Mg+2].[I-]
reactant | 2-(2,4,6-trimethylphenyl)cyclopent-4-ene-1,3-dione | 0.126 mol, 27.0 g | CC1=C(C(=CC(=C1)C)C)C1C(C=CC1=O)=O | C14H14O2
product | (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione | CC1=C(C(=CC(=C1)C)C)C1C(C2C3C=CC(C2C1=O)O3)=O | C18H18O3
